US08138175B2
4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-1-(4-trifluoromethoxy-phenyl)-[1,4]diazepan-5-one
In analogy to the procedure described in example 2, (S)-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-2-[7-oxo-4-(4-trifluoromethoxy-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester and LiBH4 gave the title compound in 79% yield as a white foam. MS: 472.3 (MH+).

reactant | (S)-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-2-[7-oxo-4-(4-trifluoromethoxy-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1CCN(CCC1=O)C1=CC=C(C=C1)OC(F)(F)F)=O | C24H32F3N3O5
reactant | LiBH4 | [Li+].[BH4-]
product | 4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-1-(4-trifluoromethoxy-phenyl)-[1,4]diazepan-5-one | 79% yield | O[C@H]1C2(CC2)CCN(C1)CC[C@@H](CO)N1CCN(CCC1=O)C1=CC=C(C=C1)OC(F)(F)F | C23H32F3N3O4
